US06855710B2
(Z)-3-[1-phenylamino-1-(4-aminomethyl-phenyl)-methylidene]-5-nitro-2-indolinone
Prepared analogously to Example 140 from (Z)-3-[1-phenylamino-1-(4-phthalimidomethyl-phenyl)-methylidene]-5-nitro-2-indolinone and hydrazine hydrate solution in ethanol.

reactant | (Z)-3-[1-phenylamino-1-(4-phthalimidomethyl-phenyl)-methylidene]-5-nitro-2-indolinone | C1(=CC=CC=C1)N\C(\C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=C\2/C(NC1=CC=C(C=C21)[N+](=O)[O-])=O | C30H20N4O5
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (Z)-3-[1-phenylamino-1-(4-aminomethyl-phenyl)-methylidene]-5-nitro-2-indolinone | C1(=CC=CC=C1)N\C(\C1=CC=C(C=C1)CN)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C22H18N4O3
